US07329749B2
0.34 ml of thionyl chloride is added to a suspension of 0.4 g of quinoline-8-carboxylic acid in THF, and the mixture is refluxed for 1 hour. The mixture is then freed from solvent, and the residue (quinoline-8-carbonyl chloride) is taken up in 50 ml of dichloromethane. 2.1 g of polymeric DMAP (Aldrich, Article No. 35,998-2), 0.6 ml of triethylamine and 0.6 g of 1-[2-(4-fluoro-phenyl)ethyl]piperazine are added to this solution, and the mixture is stirred at room temperature for 5 days. Conventional work-up gives {4-[2-(4-fluorophenyl)ethyl]piperazin-1-yl}quinolin-8-ylmethanone.

reactant | thionyl chloride | 0.34 ml | S(=O)(Cl)Cl | Cl2OS
reactant | quinoline-8-carboxylic acid | 0.4 g | N1=CC=CC2=CC=CC(=C12)C(=O)O | C10H7NO2
reactant | quinoline-8-carbonyl chloride | N1=CC=CC2=CC=CC(=C12)C(=O)Cl | C10H6ClNO
reactant | 1-[2-(4-fluoro-phenyl)ethyl]piperazine | 0.6 g | FC1=CC=C(C=C1)CCN1CCNCC1 | C12H17FN2
solvent | THF | C1CCOC1 | C4H8O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | DMAP | 2.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
product | {4-[2-(4-fluorophenyl)ethyl]piperazin-1-yl}quinolin-8-ylmethanone | FC1=CC=C(C=C1)CCN1CCN(CC1)C(=O)C=1C=CC=C2C=CC=NC12 | C22H22FN3O
